US07241791B2
Step 2: 4-[1-pentyl-7-(trifluoromethyl)-1H-indazol-3-yl]benzene-1,3-diol
Prepared according to Method D step C from 3-(2,4-dimethoxyphenyl)-1-pentyl-7-(trifluoromethyl)-1H-indazole (0.055 g, 0.14 mmol), boron tribromide (0.136 mL, 1.4 mmol) and 1.0 mL of cyclohexene to give the product (0.048 g) as a white solid.

reactant | 3-(2,4-dimethoxyphenyl)-1-pentyl-7-(trifluoromethyl)-1H-indazole | 0.14 mmol, 0.055 g | COC1=C(C=CC(=C1)OC)C1=NN(C2=C(C=CC=C12)C(F)(F)F)CCCCC | C21H23F3N2O2
reactant | boron tribromide | 1.4 mmol, 0.136 mL | B(Br)(Br)Br | BBr3
reactant | cyclohexene | 1.0 mL | C1=CCCCC1 | C6H10
product | 4-[1-pentyl-7-(trifluoromethyl)-1H-indazol-3-yl]benzene-1,3-diol | 0.048 g | C(CCCC)N1N=C(C2=CC=CC(=C12)C(F)(F)F)C1=C(C=C(C=C1)O)O | C19H19F3N2O2
